US07612114B2
{2-[2-(tert-Butyldimethylsilyloxy)-6,7,8,9-tetrahydro-5H-benzocyclohepten-6-yl]-5-methoxyphenyl}ethylamine
Synthesized from 6-(2-amino-4-methoxyphenyl)-6,7,8,9-tetrahydro-5H-benzocyclohepten-2-ol according to an analogous synthetic method to Example 201 described below, 2-[2-(tert-butyldimethylsilyloxy)-6,7,8,9-tetrahydro-5H-benzocyclohepten-6-yl]-5-methoxyphenylamine (1.3 g) was used according to an analogous synthetic method to Example 36 to provide the title compound (1.1 g).

reactant | 6-(2-amino-4-methoxyphenyl)-6,7,8,9-tetrahydro-5H-benzocyclohepten-2-ol | NC1=C(C=CC(=C1)OC)C1CC2=C(CCC1)C=C(C=C2)O | C18H21NO2
reactant | 2-[2-(tert-butyldimethylsilyloxy)-6,7,8,9-tetrahydro-5H-benzocyclohepten-6-yl]-5-methoxyphenylamine | 1.3 g | [Si](C)(C)(C(C)(C)C)OC=1C=CC2=C(CCCC(C2)C2=C(C=C(C=C2)OC)N)C1 | C24H35NO2Si
product | {2-[2-(tert-Butyldimethylsilyloxy)-6,7,8,9-tetrahydro-5H-benzocyclohepten-6-yl]-5-methoxyphenyl}ethylamine | 1.1 g | [Si](C)(C)(C(C)(C)C)OC=1C=CC2=C(CCCC(C2)C2=C(C=C(C=C2)OC)CCN)C1 | C26H39NO2Si
